US07659401B2
Step 8: 2-Methyl-5H-thiazolo[4,5-c]pyridin-4-one
5-(2,2-Dimethoxy-ethyl)-2-methyl-thiazole-4-carboxylic acid amide (1.0 g, 4.3 mmol) was dissolved in 35 ml dioxane and 0.3 ml conc. sulfuric acid was added. The reaction mixture was stirred for 2 hrs at room temperature. The white suspension was cooled to 0° C. and stirred for 10 min. The suspension was filtered and washed with cold dioxane. The solid was dried for 1 hour at 50° C. and <30 mbar. The desired product was obtained as a white solid (0.7 g, 97%), MS: m/e=167.1 (M+H+).

reactant | 5-(2,2-Dimethoxy-ethyl)-2-methyl-thiazole-4-carboxylic acid amide | 4.3 mmol, 1.0 g | COC(CC1=C(N=C(S1)C)C(=O)N)OC | C9H14N2O3S
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 2-Methyl-5H-thiazolo[4,5-c]pyridin-4-one | CC=1SC2=C(C(NC=C2)=O)N1 | C7H6N2OS
